US06235763B1
1.5 g of 2-bromo-5-chloro-2-methylindan-1-one are dissolved together with 460 mg of thiourea in 50 ml of triacetone and boiled under reflux for 8 h. The precipitate is filtered off with suction, washed with acetone and dried in vacuo. 2-Amino-6-chloro-8a-methyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide is obtained and melts at 229° C. with decomposition.

reactant | 2-bromo-5-chloro-2-methylindan-1-one | 1.5 g | BrC1(C(C2=CC=C(C=C2C1)Cl)=O)C | C10H8BrClO
reactant | thiourea | 460 mg | NC(=S)N | CH4N2S
product | 2-Amino-6-chloro-8a-methyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.NC=1SC2(C(N1)(C=1C=CC(=CC1C2)Cl)O)C | InChI=1S/C11H11ClN2OS.BrH/c1-10-5-6-4-7(12)2-3-8(6)11(10,15)14-9(13)16-10;/h2-4,15H,5H2,1H3,(H2,13,14);1H
